US05273986
A mixture of 1.2 g of (E)-3-[2-[4-(1-methylethyl)-2-thiazolyl]ethenyl]benzeneamine, 0.8 g of homophthalic anhydride and 25 ml of toluene was heated to reflux for 0.5 hr. Upon cooling to room temperature, the solid reaction product was filtered and washed with ethyl ether to yield 1.7 g of (E)-2-[2-[3-[2-[4-(1-methylethyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid. Recrystallization from ethyl alcohol yielded off-white solid material; m.p. 203°-204° C.

reactant | (E)-3-[2-[4-(1-methylethyl)-2-thiazolyl]ethenyl]benzeneamine | 1.2 g | CC(C)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)N | C14H16N2S
reactant | homophthalic anhydride | 0.8 g | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-2-[2-[3-[2-[4-(1-methylethyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid | 1.7 g | CC(C)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)NC(CC1=C(C(=O)O)C=CC=C1)=O | C23H22N2O3S
